US06107308
Synthesis of 4-(2-quinolylmethylene)piperidine:
1-tert-Butoxycarbonyl-4-(2-quinolylmethylene)piperidine (17.6 g) was dissolved in dichloromethane (60 ml), and TFA (60 ml) was added to the solution under cooling on ice. The mixture was stirred for 2.5 hours at room temperature and concentrated under reduced pressure. A saturated solution of sodium hydrogencarbonate was added to the residue to neutralize, and the mixture was then extracted with chloroform. The organic phase was dried over sodium sulfate anhydrate and concentrated under reduced pressure. The title compound was recovered from an etherhexane solvent as white powder. This powder was also used for subsequent reaction without further purification.

reactant | 1-tert-Butoxycarbonyl-4-(2-quinolylmethylene)piperidine | 17.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=NC2=CC=CC=C2C=C1 | C20H24N2O2
reactant | TFA | 60 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-(2-quinolylmethylene)piperidine | N1=C(C=CC2=CC=CC=C12)C=C1CCNCC1 | C15H16N2
